US05610163
Scopine di-(2-thienyl)glycolate
50.87 g (0.2 mole) of methyl di-(2-thienyl)glycolate and 31.04 g (0.2 mole) of scopine are dissolved in 100 ml of absolute toluene and reacted at a bath temperature of 90° C. with addition of 1.65 g (0.071 gram atom) of sodium in several portions. The resulting methanol is distilled off at a reaction mixture temperature of 78°-90° C. under a pressure of 500 mbar. After a reaction time of about 5 hours, the reaction mixture is stirred into a mixture of ice and hydrochloric acid. The acid phase is separated off, rendered alkaline using sodium carbonate and the free base is extracted using methylene chloride. After drying over sodium sulphate, the methylene chloride is distilled off under reduced pressure and the residue is recrystallised from acetonitrile; beige-coloured crystals (from acetonitrile),

reactant | methyl di-(2-thienyl)glycolate | 0.2 mole, 50.87 g | S1C(=CC=C1)C(C(=O)OC)(O)C=1SC=CC1 | C11H10O3S2
reactant | scopine | 0.2 mole, 31.04 g | CN1[C@@H]2CC(C[C@H]1[C@H]3[C@@H]2O3)O | C8H13NO2
reactant | sodium | 1.65 g | [Na] | Na
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Scopine di-(2-thienyl)glycolate | CN1[C@@H]2CC(C[C@H]1[C@H]3[C@@H]2O3)OC(=O)C(C4=CC=CS4)(C5=CC=CS5)O | C18H19NO4S2
